### PR TITLE
Quantum categories

### PR DESCRIPTION
**Pull request by chai770**
Added a file in monoidal categories, with definitions from the book "Categories for Quantum Theory: An Introduction" by Heunen and Vicary.

### CODE REVIEW

**Comment by arnoudvanderleer** [comment]
Thank you for your contribution. Can you make your imports more specific? You add a file to the `CategoryTheory` package, but this file imports `CategoryTheory.All`, so you have a dependency cycle.

**Comment by arnoudvanderleer** [comment]
Also, the sanity checks fail because the file is not yet listed in [`CONTENTS.md`](https://github.com/chai770/UniMath/blob/QuantumCategories/UniMath/CONTENTS.md)

**Comment by arnoudvanderleer** [comment]
@nmvdw I am still thinking about whether the underscores in `Categories_for_Quantum` are a good idea. What do you think?

**Comment by nmvdw** [comment]
> @nmvdw I am still doubt whether the underscores in `Categories_for_Quantum` are a good idea. What do you think?

I definitely never made a file called `Invertible_2cells` in `Bicategories.Core`. 

It might be consistent to keep it without the underscores, but I broke that rule in the past at some point

File: UniMath/CategoryTheory/Monoidal/Categories_for_Quantum.v [hunk 1]
```diff
@@ -0,0 +1,290 @@
...
+
+
+(* Lemma 2.15 *)
+
+Lemma zero_super_unit_eq
+      {M : monoidal_cat}
+      {Z : Zero (pr1 M)}
+      {op : superpos_rule M}
+      (A B : pr1 M)
+: (ZeroArrow Z A B) = u^{op}_{A,B}.
```
[the remark this answers is not in the document]
Comment (chai770) [reply UniMath/CategoryTheory/Monoidal/Categories_for_Quantum.v:143]: Thank you for the feedback, do you mean indenting as such?

```suggestion
      {Z : Zero (pr1 M)}
      {op : superpos_rule M}
      (A B : pr1 M)
      : (ZeroArrow Z A B) = u^{op}_{A,B}.
```

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v [hunk 2]
```diff
@@ -0,0 +1,290 @@
...
+ 2. Biproducts
+
+
+ ***************************************************************************)
+
+Require Import UniMath.Foundations.All.
+Require Import UniMath.CategoryTheory.Core.Functors.
+Require Import UniMath.CategoryTheory.Core.Categories.
+Require Import UniMath.CategoryTheory.Monoidal.Categories.
+Require Import UniMath.CategoryTheory.limits.zero.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:25]: You are not using the latest version of UniMath. Some names got changed

```suggestion
Require Import UniMath.CategoryTheory.Limits.Zero.
```

It would also be good to update to the latest version of UniMath on your device

File: UniMath/CategoryTheory/Monoidal/Categories_for_Quantum.v (hunk 1 above)
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/Categories_for_Quantum.v]: Yes

**Comment by nmvdw** [comment]
The error is that the CONTENTS.md file isn't updated.

Can you try:
```
make
git add CONTENTS.md
```
and push again?

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v [hunk 3]
```diff
@@ -0,0 +1,290 @@
...
+      {M : monoidal_cat}
+      {Z : Zero (pr1 M)}
+      {op : superpos_rule M}
+      (A B : pr1 M)
+: (ZeroArrow Z A B) = u^{op}_{A,B}.
+Proof.
+  set (q := u^{op}_{Z,B}).
+  set (h := u^{op}_{A,Z}).
+  assert (X : (u^{ op }_{ A, B} = h · q)).
+  exact (((pr2 (pr2 (pr2 (pr2 op)))) A Z B) h).
```
Comment (arnoudvanderleer) [inline UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:151]: Can you please add accessors for the components of `superpos_rule`? That way, you won't have to write these strings of projections. Accessors are easier to use, and much easier to read.

Also, in `MoreFoundations.Notations` (I believe), the notation `prijk ...` (for example: `pr112`) is introduced for `pri (prj (prk ...)))` (and similarly for two projections).

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v [hunk 4]
```diff
@@ -0,0 +1,290 @@
...
+
+      
+
+
+
+(**
+
+2. Biproducts
+
+*)
```
Comment (arnoudvanderleer) [inline UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:180]: Biproducts are a general form of limit in category theory. They look a lot like direct sums in a preadditive category, but they only require zero morphisms. Would it be an idea to add a new file `CategoryTheory/Limits/BinBiproducts.v` with something along the lines of
```coq
Require Import UniMath.Foundations.All.
Require Import UniMath.MoreFoundations.All.
Require Import UniMath.CategoryTheory.Core.Categories.
Require Import UniMath.CategoryTheory.Limits.BinCoproducts.
Require Import UniMath.CategoryTheory.Limits.BinProducts.
Require Import UniMath.CategoryTheory.Limits.Zero.

Local Open Scope cat.

Section BinBiproducts.

  Context {C : category}.
  Context {A B : C}.

  Definition bin_biproduct_data
    : UU
    := ∑ (P : C),
      (P --> A) ×
      (P --> B) ×
      (A --> P) ×
      (B --> P).

  Coercion bin_biproduct_object
    (P : bin_biproduct_data)
    : C
    := pr1 P.

  Definition make_bin_biproduct_data
    (P : C)
    (pr1 : P --> A)
    (pr2 : P --> B)
    (i1 : A --> P)
    (i2 : B --> P)
    : bin_biproduct_data
    := P ,, pr1 ,, pr2 ,, i1 ,, i2.

  Section Accessors.

    Context (P : bin_biproduct_data).

    Definition bin_biproduct_pr1
      : P --> A
      := pr12 P.

    Definition bin_biproduct_pr2
      : P --> B
      := pr122 P.

    Definition bin_biproduct_i1
      : A --> P
      := pr1 (pr222 P).

    Definition bin_biproduct_i2
      : B --> P
      := pr2 (pr222 P).

  End Accessors.

  Context {Z : Zero C}.

  Section Axioms.
    Context (P : bin_biproduct_data).

    Definition bin_biproduct_i1_pr1_ax
      : UU
      := bin_biproduct_i1 P · bin_biproduct_pr1 P = identity A.

    Definition bin_biproduct_i1_pr2_ax
      : UU
      := bin_biproduct_i1 P · bin_biproduct_pr2 P = ZeroArrow Z A B.

    Definition bin_biproduct_i2_pr2_ax
      : UU
      := bin_biproduct_i2 P · bin_biproduct_pr2 P = identity B.

    Definition bin_biproduct_i2_pr1_ax
      : UU
      := bin_biproduct_i2 P · bin_biproduct_pr1 P = ZeroArrow Z B A.

  End Axioms.

  Definition is_bin_biproduct
    (P : bin_biproduct_data)
    : UU
    := (isBinProduct _ _ _ P (bin_biproduct_pr1 P) (bin_biproduct_pr2 P)) ×
      (isBinCoproduct _ _ _ P (bin_biproduct_i1 P) (bin_biproduct_i2 P)) ×
      (bin_biproduct_i1_pr1_ax P) ×
      (bin_biproduct_i1_pr2_ax P) ×
      (bin_biproduct_i2_pr1_ax P) ×
      (bin_biproduct_i2_pr2_ax P).

  (* Add a constructor for is_bin_biproduct here *)

  Definition bin_biproduct
    : UU
    := ∑ P, is_bin_biproduct P.

  Coercion bin_biproduct_to_data
    (P : bin_biproduct)
    : bin_biproduct_data
    := pr1 P.

  Coercion bin_biproduct_to_bin_product
    (P : bin_biproduct)
    : BinProduct C A B
    := make_BinProduct _ _ _ P (bin_biproduct_pr1 P) (bin_biproduct_pr2 P) (pr12 P).

  Coercion bin_biproduct_to_bin_coproduct
    (P : bin_biproduct)
    : BinCoproduct A B
    := make_BinCoproduct _ _ _ P (bin_biproduct_i1 P) (bin_biproduct_i2 P) (pr122 P).

  (* Add a constructor for bin_biproduct here *)

  Definition bin_biproduct_i1_pr1
    (P : bin_biproduct)
    : bin_biproduct_i1_pr1_ax P
    := pr1 (pr222 P).

  (* Add the other accessors here *)

End BinBiproducts.

Arguments bin_biproduct_data {C} (A B).

Arguments bin_biproduct_i2_pr1_ax {C} (A B) (Z).
Arguments bin_biproduct_i1_pr2_ax {C} (A B) (Z).

Arguments bin_biproduct {C} (A B) (Z).
```
Is this equivalent to what you are trying to construct here, or are there significant differences?

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v [hunk 5]
```diff
@@ -0,0 +1,290 @@
...
+           {A B: pr1 C}
+           (op : operation_data A B)
+: UU 
+:= ∑ (un : C⟦A, B⟧), ∏ (f : C⟦A, B⟧), op f un = f.
+
+
+
+Definition pre_superpos_oper (M: monoidal_cat) : UU := 
+  ∏ (A B : pr1 M), ∑ (op : operation_data A B),
+  (super_commutes op)×(super_is_assoc op)×(super_unit op).
```
Comment (arnoudvanderleer) [inline UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:76]: This is equivalent to `isabmonoidop op`, I believe.
@nmvdw What do you think, would it be a good idea to make use of that here?

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v [hunk 6]
```diff
@@ -0,0 +1,290 @@
...
+           (oper : superpos_rule M)
+           (A B : pr1 M)
+: (M⟦A, B⟧ -> M⟦A, B⟧ -> M⟦A, B⟧)
+:= pr1((pr1 oper) A B).
+
+Notation "op^{ oper }_{ A , B }" := (oper_notation oper A B ).
+
+Definition super_pos_unit 
+           {M : monoidal_cat}
+           (op : superpos_rule M)
```
[the remark this answers is not in the document]
Comment (chai770) [reply UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:131]: I'm not quite sure what this would look like, do you mean using `superpos_unit ` in the definitions in the compatibility of `superpos_rule`?

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v [hunk 7]
```diff
@@ -0,0 +1,290 @@
...
+(**
+
+1. Superposition rules
+
+*)
+
+
+
+Definition operation_data 
+           {C : monoidal_cat}
```
[the remark this answers is not in the document]
Comment (chai770) [reply UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:41]: Yes you're right, I will make the change to make it more general.

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v (hunk 4 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:236]: The third follows from the universal property of the product (or coproduct, for that matter):
Suppose that we have an object $P$ with morphisms $p_n: P \to A_n$, $i_n : A_n \to P$ such that $(P, p_1, p_2)$ is a product and $(P, i_1, i_2)$ is a coproduct and (2.12) and (2.13) hold, then
$$p_1 \cdot i_1 + p_2 \cdot i_2 = (p_1 \cdot i_1 + p_2 \cdot i_2) \cdot id_P = (p_1 \cdot i_1 + p_2 \cdot i_2) \cdot \langle p_1, p_2 \rangle = \langle (p_1 \cdot i_1 + p_2 \cdot i_2) \cdot p_1, (p_1 \cdot i_1 + p_2 \cdot i_2) \cdot p_2 \rangle = \langle p_1, p_2 \rangle = id_P$$
where $\langle f, g \rangle$ denotes the morphism from the universal property of the product, which has the property that $id_P = \langle p_1, p_2\rangle$ and $\langle h \cdot f, h \cdot g\rangle = h \cdot \langle f, g \rangle$.

So I think it would be good to indeed add the file `CategoryTheory/Limits/BinBiproducts.v`, import it into `CategoriesForQuantum`, and show that it has property 2.14, (and conversely, that an object which satisfies Definition 2.18 indeed gives a biproduct :innocent: )

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v [hunk 8]
```diff
@@ -160,123 +197,143 @@ Qed.
...
+  (sum ·(BinProductPr2 C binprod)))).
+  exact (precompWithBinProductArrow C binprod (BinProductPr1 C binprod) (BinProductPr2 C binprod) sum).
+  set (c1 := (sum · BinProductPr1 C binprod)).
+  assert (H2: c1 = (BinProductPr1 C binprod)).
+  - set (Y0 := superpos_compat_with_comp_2 op obP obP A (pro1 · in1) (pro2 · in2) (BinProductPr1 C binprod)).
+    assert (Y1 : (BinProductPr1 C binprod) = pro1).
+    unfold BinProductPr1. 
+    unfold binprod.
+    unfold bin_biproduct_pr1.
+    reflexivity.
```
Comment (arnoudvanderleer) [inline UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:253]: Can you please make clear that this is a subproof?
```suggestion
    assert (Y1 : (BinProductPr1 C binprod) = pro1).
    {
      unfold BinProductPr1. 
      unfold binprod.
      unfold bin_biproduct_pr1.
      reflexivity.
    }
```

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v [hunk 9]
```diff
@@ -160,123 +197,143 @@ Qed.
...
+  rewrite H2 in H1.
+
+  assert (X4 : sum · p1p2 = p1p2).
+  exact H1.
+  rewrite <- X1 in X4.
+  rewrite <- ( id_right sum).
+  symmetry.
+  exact X4.
 
+Qed.
```
Comment (arnoudvanderleer) [inline UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:336]: Well done! ^^

Comment (chai770) [reply UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:340]: Thank you! I'm working on proving the converse of this lemma currently, and hopefully I'll have it finished soon. Is the overall formatting of a long proof like this ok, or do you have any suggestions on how to make the structure more readable?

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v [hunk 10]
```diff
@@ -339,6 +339,162 @@ Proof.
...
+  (Z : Zero C)
+  (op : superpos_oper C)
+  (p1 : P --> A)
+  (p2 : P --> B)
+  (i1 : A --> P)
+  (i2 : B --> P)
+  (H1 : i1 · p1 = (identity A))
+  (H2 : i2 · p2 = (identity B))
+  (Z1 : i1 · p2 = (ZeroArrow Z A B))
+  (Z2 : i2 · p1 = (ZeroArrow Z B A))
```
Comment (arnoudvanderleer) [inline UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:358]: You can avoid dependence on the Zero object by replacing `ZeroArrow` with the unit, right?

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v (hunk 9 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:341]: Oh, I am only seeing this now. Good job proving the converse in the meanwhile!

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v (hunk 10 above)
Comment (chai770) [reply UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:358]: I think the zero object is essential, because `is_bin_biproduct` has axioms which rely on the existence of a zero object. To convert from the unit to the zero arrow, you also assume the existence of the zero object.

Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:358]: Okay, I better understand your point of view. Still, in a file about Quantum operations, it may good to formulate most of the material in the quantum language (including writing the unit instead of the zero arrow).

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v (hunk 9 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:341]: I have a couple of thoughts about your code:
- It is nice that you organize your proofs into blocks using newlines. This suggests some structure at least :-)
- However, you have a couple of `assert` statements that take a multiline proof. Please delimit these with braces (as you started doing in your proof of `axiom3_converse`), to make the structure of your proof more visible. The goal is to have only 1 goal in scope at any point in time. If you have two goals, either delimit the proof of your first proof with braces `{ }`, or add bullets `- + *` to show you are proving two goals.
- You divide the goal into very small pieces, which you proceed to prove in assert blocks. This is a possibility, but I am not sure whether that is more readable (since it is still a wall of code) than when you just rewrite the goal until you have what you want:
```coq
Proof.
  apply (BinProductArrowsEq _ _ _ P).
  - change (BinProductPr1 C P) with (bin_biproduct_pr1 P).
    rewrite id_left.
    rewrite superpos_compat_with_comp_2.
    do 2 rewrite assoc'.
    rewrite (bin_biproduct_i1_pr1 P).
    rewrite id_right.
    rewrite bin_biproduct_i2_pr1.
    rewrite ZeroArrow_comp_right.
    rewrite (zero_super_unit_eq _ op).
    rewrite superpos_unit_zero.
    reflexivity.
  - (* You can do the second part yourself ;-) *)
Qed.
```
For me, this 24-line proof looks way less intimidating than the 124-line original. What do you think?

Now, some technical tips (which are not very applicable anymore because of the above, but may still come in handy another time :-))

A pair of lines like
```coq
assert (X1 : identity obP = p1p2).
exact X0.
```
can be rewritten as any of the following lines:
```coq
assert (X1 := X0 : identity obP = p1p2).
pose (X1 := X0 : identity obP = p1p2).`
change (BinProductArrow _ _ (BinProductPr1 C binprod) (BinProductPr2 C binprod)) with p1p2 in X0.
```
`pose` saves the information that `X1` is defined as `X0`, whereas `assert` (temporarily) forgets that information.

Likewise,
```
assert (X0 : ((identity obP)  = (BinProductArrow C binprod ((identity obP) · (BinProductPr1 C binprod)) ((identity obP) · (BinProductPr2 C binprod))))).
exact (BinProductArrowEta C A B binprod obP (identity P)).
```
can be reformulated as `assert (X0 := BinProductArrowEta C A B binprod obP (identity P)).`

A block like
```
assert (Y1 : (BinProductPr1 C binprod) = pro1).
{
  unfold BinProductPr1.
  unfold binprod.
  unfold bin_biproduct_pr1.
  reflexivity.
}
```
can be rewritten as `assert (Y1 : idpath _ : (BinProductPr1 C binprod) = pro1).`. However, it may be even better to write
```
assert (Y1 := idpath _ : BinProductPr1 C binprod = pro1).
rewrite Y1 in Y0.
unfold sum in c1.
unfold c1.
rewrite Y1.
```
as
```
change (BinProductPr1 _ _) with pro1 in Y0, c1.
unfold sum in c1.
unfold c1.
```

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v [hunk 11]
```diff
@@ -0,0 +1,506 @@
...
+    assert (B1 : (p1 · i1 · h) = p1 · f).
+    unfold h. rewrite assoc'. rewrite (pr12 cntr).
+    reflexivity.
+    assert (B2 : (p2 · i2 · h) = p2 · g).
+    unfold h. rewrite assoc'. rewrite (pr22 cntr).
+    reflexivity.
+    rewrite B1 in Y2. rewrite B2 in Y2.
+    symmetry. exact Y2.
+  }
+  set (is_bipr := make_is_bin_biproduct (P ,, (p1 ,, p2 ,, i1 ,, i2)) X0 X1 H1 Z1 Z2 H2).
```
Comment (arnoudvanderleer) [inline UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:493]: There is a constructor `make_bin_biproduct_data`. That is more readable (in some sense) than `(_ ,, _ ,, _ ,, _ ,, _)`.

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v [hunk 12]
```diff
@@ -0,0 +1,506 @@
...
+  exact (make_bin_biproduct (P,, p1,, p2,, i1,, i2) is_bipr).
+
+Qed.
```
Comment (arnoudvanderleer) [inline UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:496]: You close this with `Qed`, which means that the definitions of the product and coproduct arrows that you do here are not available outside of this proof. Would it be an idea to split this up into a section with the following skeleton?
```

Definition TODO {A : UU} : A.
Admitted.

Section IsBinBiproduct'.

  Context {C : category}.
  Context {A B : C}.
  Context {P : bin_biproduct_data A B}.
  Context {Z : Zero C}.
  Context {op : superpos_oper C}.

  Context (H1 : bin_biproduct_i1 P · bin_biproduct_pr1 P = identity A).
  Context (H2 : bin_biproduct_i2 P · bin_biproduct_pr2 P = identity B).
  Context (Z1 : bin_biproduct_i1 P · bin_biproduct_pr2 P = ZeroArrow Z A B).
  Context (Z2 : bin_biproduct_i2 P · bin_biproduct_pr1 P = ZeroArrow Z B A).
  Context (A3 : identity P
                = (bin_biproduct_pr1 P · bin_biproduct_i1 P)
                  +^{op} (bin_biproduct_pr2 P · bin_biproduct_i2 P)).

  Section ProductUniversalProperty.

    Context (Q : C).
    Context (f : C ⟦ Q, A ⟧).
    Context (g : C ⟦ Q, B ⟧).

    Definition make_is_bin_biproduct'_product_arrow
      : C⟦Q, P⟧.
    Proof.
      apply TODO.
    Defined.

    Lemma make_is_bin_biproduct'_product_arrow_commutes1
      : make_is_bin_biproduct'_product_arrow · bin_biproduct_pr1 P = f.
    Proof.
      apply TODO.
    Qed.

    Lemma make_is_bin_biproduct'_product_arrow_commutes2
      : make_is_bin_biproduct'_product_arrow · bin_biproduct_pr2 P = g.
    Proof.
      apply TODO.
    Qed.

    Lemma make_is_bin_biproduct'_product_arrow_commutes'
      (h': C⟦Q, P⟧)
      (H : h' · bin_biproduct_pr1 P = f × h' · bin_biproduct_pr2 P = g)
      : h' = make_is_bin_biproduct'_product_arrow.
    Proof.
      apply TODO.
    Qed.

    Lemma make_is_bin_biproduct'_product_arrow_unique
      (h': C⟦Q, P⟧)
      (H : h' · bin_biproduct_pr1 P = f × h' · bin_biproduct_pr2 P = g)
      : h' = make_is_bin_biproduct'_product_arrow.
    Proof.
      apply TODO.
    Qed.

    Definition make_is_bin_biproduct'_product_property
      : ∃! (h: C⟦Q, P⟧), h · bin_biproduct_pr1 P = f × h · bin_biproduct_pr2 P = g.
    Proof.
      use unique_exists.
      - exact make_is_bin_biproduct'_product_arrow.
      - split.
        + exact make_is_bin_biproduct'_product_arrow_commutes1.
        + exact make_is_bin_biproduct'_product_arrow_commutes2.
      - abstract (
          intro y;
          apply isapropdirprod;
          apply homset_property
        ).
      - exact make_is_bin_biproduct'_product_arrow_unique.
    Defined.

  End ProductUniversalProperty.

  Section CoproductUniversalProperty.

    Context (Q : C).
    Context (f : C ⟦ A, Q ⟧).
    Context (g : C ⟦ A, Q ⟧).

    (* The same as the product. *)

  End CoproductUniversalProperty.

  Definition make_is_bin_biproduct'
    : is_bin_biproduct (Z := Z) P.
  Proof.
    use make_is_bin_biproduct.
    - exact make_is_bin_biproduct'_product_property.
    - apply TODO.
    - exact H1.
    - exact Z1.
    - exact Z2.
    - exact H2.
  Defined.

End IsBinBiproduct'.
```

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v (hunk 9 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:341]: Oooh, my bad. I forgot to send you the updated statement :sweat_smile: 
```
Lemma id_biproduct_superpos
  (C : category)
  (A B : C)
  (Z : Zero C)
  (P : bin_biproduct A B Z)
  (op : superpos_oper C)
  : identity (bin_biproduct_object P)
    = (bin_biproduct_pr1 P · bin_biproduct_i1 P) +^{op} (bin_biproduct_pr2 P · bin_biproduct_i2 P).
```
Because of the coercions of `bin_biproduct`, you do not need to write `bin_biproduct_pr1 (pr1 P)`, but can instead write `bin_biproduct_pr1 P`. The axioms of the biproduct are formulated using the coercions, so you get errors when you try to rewrite a statement like `bin_biproduct_i1 (pr1 P) · bin_biproduct_pr1 (pr1 P)` using the axiom that says `bin_biproduct_i1 P · bin_biproduct_pr1 P = identity A`.

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v (hunk 12 above)
Comment (chai770) [reply UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v]: Yes, that's a great idea! I've made the changes in the new commit; the only one question I had however was whether we needed `Lemma make_is_bin_biproduct'_product_arrow_unique` (or what you had in mind for this lemma since it seems the same as the previous lemma)? It seems to all run fine without `make_is_bin_biproduct'_product_arrow_unique` and instead using `make_is_bin_biproduct'_product_arrow_commutes'`.

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v [hunk 13]
```diff
@@ -216,284 +216,227 @@ Lemma id_biproduct_superpos
...
+
+    Lemma make_is_bin_biproduct'_product_arrow_unique
+      (h': C⟦Q, P⟧)
+      (H : h' · bin_biproduct_pr1 P = f × h' · bin_biproduct_pr2 P = g)
+      : h' = make_is_bin_biproduct'_product_arrow.
+    Proof.
+      
+    Qed.
+
+*)
```
Comment (arnoudvanderleer) [inline UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:332]: Oh, my bad. You are right. Note that the better name for this is `make_is_bin_biproduct'_product_arrow_unique`, not `make_is_bin_biproduct'_product_arrow_commutes'`

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v [hunk 14]
```diff
@@ -216,284 +216,227 @@ Lemma id_biproduct_superpos
...
+    : is_bin_biproduct (Z := Z) P.
+  Proof.
+    use make_is_bin_biproduct.
+    - exact make_is_bin_biproduct'_product_property.
+    - exact make_is_bin_biproduct'_coproduct_property.
+    - exact H1.
+    - exact Z1.
+    - exact Z2.
+    - exact H2.
+  Defined.
```
Comment (arnoudvanderleer) [inline UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:437]: Well done!

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v [hunk 15]
```diff
@@ -216,284 +216,227 @@ Lemma id_biproduct_superpos
...
+    do 2 rewrite assoc'.
+    rewrite bin_biproduct_i1_pr2.
+    rewrite bin_biproduct_i2_pr2.
+    rewrite ZeroArrow_comp_right.
+    rewrite (zero_super_unit_eq _ op).
+    rewrite superpos_commutes. 
+    rewrite superpos_unit_zero.
+    rewrite (id_right _).
+    reflexivity.
 Qed.
```
Comment (arnoudvanderleer) [inline UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v]: Nice!

File: UniMath/CategoryTheory/Limits/BinBiproducts.v [hunk 16]
```diff
@@ -0,0 +1,156 @@
+Require Import UniMath.Foundations.All.
```
Comment (arnoudvanderleer) [inline UniMath/CategoryTheory/Limits/BinBiproducts.v:1]: Now this file only needs a documentation comment (see [the docs](https://github.com/UniMath/UniMath/blob/master/documentation/contributing/Style-guide.md#add-comments-to-your-code))

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v [hunk 17]
```diff
@@ -0,0 +1,490 @@
+
```
Comment (arnoudvanderleer) [inline UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:1]: This file still needs a documentation comment (see [the docs](https://github.com/UniMath/UniMath/blob/master/documentation/contributing/Style-guide.md#add-comments-to-your-code))

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v (hunk 13 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:332]: Can you maybe rename the `commutes'` things to `unique`, and remove this commented code here?

**Review by arnoudvanderleer — APPROVED** [review]
Looks good to merge, modulo three comments

File: UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v (hunk 14 above)
Comment (chai770) [reply UniMath/CategoryTheory/Monoidal/CategoriesForQuantum.v:446]: Thank you!

**Review by arnoudvanderleer — APPROVED** [review]
Looking good! @nmvdw do you think this can be merged?

**Comment by benediktahrens** [comment]
> @benediktahrens Do you think we can merge this?

Thanks for reminding me! Will merge once CI has checked the updated PR.
